Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9]>>[C:1]#[C:2].[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9],6.49820134345
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[O:4],0.780384179469
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10][H:11]>>[C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[O:9],2.97058966602
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][O:2],4.89830691698
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-3.86419546813
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12].[H:13],3.72310195705
[H:1][C:2]([H:3])([C:4]=[C:12]([H:13])[H:14])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-4.88032146933
[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.99689690714
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]#[C:9]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]#[C:9],3.5372088690800005
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2](=[C:3]=[O:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.0392251540702
[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7](=[O:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7](=[O:8])[H:9],-7.31379009746
[H:1][C:2]#[C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:4](#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11].[H:1][C:2]#[C:3],3.36796150736
[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3][H:4].[H:1][C:2]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],3.15791138346
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-2.8521530740400003
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])([H:8])=[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5],2.86913777988
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],3.76649304538
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:3].[O:1]=[C:2][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],4.4732601691300005
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:12]=[C:13]([H:14])[H:15],1.74542943757
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5][H:6],6.05091784992
[H:1][O:2][C:3]=[C:4]([H:8])[H:9].[O:5]([H:6])[C:7]>>[H:1][O:2][C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-3.85147341125
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[O:7],0.06383657976080001
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.78533995234
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:9]([H:10])[H:11].[O:8],5.64119616025
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],6.9775661606
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][C:2](=[O:3])[C:4]([H:5])([H:6])[H:7]>>[O:1][C:2]([O:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],0.1449520433299999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],4.57315455497
[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.87353376098
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.0334072232199984
